* C:\users\mathias\Documents\Mathias Schule_Studium\FH\ELITE-Semester\EIT_4\Digitaltechnik\Labor\2026-05-06\Simulation.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 Q- Q- N004 VCC 0 74HC00 VCC=5 SPEED=1.0 TRIPDT=1e-9 ;§pnba A)B)Y
X§U3 CLK N002 N004 N004 N005 N006 N007 N008 N009 N010 N011 N004 VCC 0 74HC164 VCC=5 SPEED=1.0 TRIPDT=1e-9 ;§pnba CP)MR)Dsa)Dsb)Q0)Q1)Q2)Q3)Q4)Q5)Q6)Q7
X§U4 N001 N001 CLK VCC 0 74HC132 VCC=5 SPEED=1.0 TRIPDT=1e-9 ;§pnba A)B)Y
V1 N001 0 PULSE(0 3.3 0 0.01 0.01 0.5 1)
V2 V 0 5
R1 0 N005 1k
R2 0 N006 1k
R3 0 N007 1k
R4 0 N008 1k
R5 0 N009 1k
R6 0 N010 1k
R7 0 N011 1k
R8 0 N004 1k
X§U2 V CLK N004 V N012 Q- VCC 0 74HC74 VCC=5 SPEED=1.0 TRIPDT=1e-9 ;§pnba S)C1)1D)R)Q)_Q
V3 N003 0 PULSE(0 3.3 0 0.01 0.01 0.1 15)
M1 N002 N003 0 0 NMOS
R9 V N002 10000k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\mathias\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 20 0 0.01
.lib ./Lab_02_SRC_Simulation_Files/74hc.lib
.backanno
.end
