* Vishay IRF840A - Datasheet-Based Model
.SUBCKT IRF840A D G S
M1 D G S S VISHAY_NMOS L=1u W=300u
.MODEL VISHAY_NMOS NMOS LEVEL=3
+ VTO=3.0      KP=45        THETA=0.1
+ LAMBDA=0.02  RD=0.5       RS=0.5
+ CBD=155p     CBS=155p     CGSO=1.2n
+ CGDO=0.6n    CGBO=1p      RDS=1e6
+ IS=1e-12     PB=0.8       TT=422n
+ RG=3.7       RDSON=0.85   QG=38n
+ QGS=9n       QGD=18n      VDSMAX=500
D1 S D Dbody
.MODEL Dbody D (IS=1e-9 RS=0.02 N=1 TT=422n CJO=155p VJ=0.8)
.ENDS IRF840A