* Infineon IRLB8721PBF - Enhanced Model
.SUBCKT IRLB8721PBF D G S
M1 D G S S INFINEON_NMOS L=1u W=1000u
.MODEL INFINEON_NMOS NMOS LEVEL=3
+ VTO=2.65     Kp=66.2     GAMMA=0.6
+ PHI=0.7      LAMBDA=0.01  RD=0.004
+ RS=0.004     CBD=1.8n     CBS=1.8n
+ IS=1e-9      PB=0.8       CGSO=9.8n
+ CGDO=0.032n  CGBO=1p      RDS=5e7
+ RG=9.5       RDSON=0.008  TT=100n
D1 S D Dbody
.MODEL Dbody D (IS=1.96e-7 RS=0.00267 N=1.5 BV=30 IBV=0.25m CJO=604p VJ=5 M=0.636)
.ENDS IRLB8721PBF