* Nexperia PHP79NQ08LT - Datasheet-Accurate Model
.SUBCKT PHP79NQ08LT D G S
M1 D G S S NXP_NMOS L=1u W=2000u
.MODEL NXP_NMOS NMOS LEVEL=3
+ VTO=1.5      KP=120       THETA=0.05
+ LAMBDA=0.015 RD=0.005     RS=0.005
+ CBD=300p     CBS=300p     CGSO=0.8n
+ CGDO=0.3n    CGBO=1p      RDS=500k
+ IS=1e-12     PB=0.8       TT=90n
+ RG=2.0       RDSON=0.014  QG=30n
+ QGS=6n       QGD=14n      VDSMAX=75
D1 S D Dbody
.MODEL Dbody D (IS=1e-9 RS=0.01 N=1 TT=90n CJO=300p VJ=0.8)
.ENDS PHP79NQ08LT